US06667312B2
A suspension of 1-(5-chloropentyl)-2-propyl-1H-imidazo[4,5-c]quinoline-4-amine (2.5 g, 7.56 mmol) in anhydrous N,N-dimethylformamide (38 mL) was heated to 80° C. to provide a light yellow solution. Sodium thiomethoxide (0.67 g of 95%, 9.07 mmol) was added in a single portion and heating was continued for 110 minutes. The resulting light brown suspension was poured into water (300 mL) with rapid stirring. A white solid precipitated. After the suspension had cooled to ambient temperature, several scoops of solid sodium carbonate were added. The suspension was chilled in an ice water bath with stirring for 1 hour. The solid was isolated by filtration, washed with cold water and then dried to provide 2.3 g of 1-[5-(methylthio)pentyl]-2-propyl-1H-imidazo[4,5-c]quinoline-4-amine as a white powder.

reactant | 1-(5-chloropentyl)-2-propyl-1H-imidazo[4,5-c]quinoline-4-amine | 7.56 mmol, 2.5 g | ClCCCCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)CCC | C18H23ClN4
reactant | Sodium thiomethoxide | 9.07 mmol, 0.67 g | C[S-].[Na+]
reactant | water | 300 mL | O | H2O
solvent | N,N-dimethylformamide | 38 mL | CN(C=O)C | C3H7NO
product | 1-[5-(methylthio)pentyl]-2-propyl-1H-imidazo[4,5-c]quinoline-4-amine | 2.3 g | CSCCCCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)CCC | C19H26N4S
